US07842696B2
DIPEA (90 mg, 0.12 mL, 0.7 mmol) was added drop wise to 5-(phenyl-amino)-pyridine-2-carboxylic acid (50 mg, 0.23 mmol) in DMF (5 mL). EDCI (111 mg, 0.58 mmol) and HOBT (37 mg, 0.28 mmol) were added consecutively and, after 10 minutes, 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone in its HCl salt form (98 mg, 0.28 mmol) was added. The resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using silica gel of 60-120 mesh and 50% EtOAc in Hexane as eluent) to afford 50 mg (42% yield) of 5-phenylamino-pyridine-2-carboxylic acid {2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LC-MS purity: 93.93%. 1H-NMR (DMSO-d6): δ 8.9 (s, 1H), 8.5 (t, 1H), 8.3 (d, 1H), 7.8 (m, 5H), 7.6 (d, 2H), 7.4 (t, 2H), 7.2 (d, 2H), 7.0 (t, 1H), 4.2 (dd, 2H), 3.6 (m, 4H), 3.4 (m, 2H), 3.2 (m, 2H).

reactant | DIPEA | 0.7 mmol, 0.12 mL, 90 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-(phenyl-amino)-pyridine-2-carboxylic acid | 0.23 mmol, 50 mg | C1(=CC=CC=C1)NC=1C=CC(=NC1)C(=O)O | C12H10N2O2
reactant | EDCI | 0.58 mmol, 111 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.28 mmol, 37 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone | NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C14H16F3N3O2
reactant | HCl | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-phenylamino-pyridine-2-carboxylic acid {2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 50 mg, 42% yield | FC(C1=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=NC=C(C=C2)NC2=CC=CC=C2)=O)C=CC=C1)(F)F | C26H24F3N5O3
